### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial/HasseDeriv): add `hasseDeriv_map`

### PR DESCRIPTION
**Pull request by mo271**
This is from Formal Conjecture's ForMathlib:
originally added by @shamEiNew in

https://github.com/google-deepmind/formal-conjectures/pull/150

This is analogous to `Polynomial.derivative_map` for the standard derivative.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mo271** [comment]
on the failing CI: [#mathlib4 > Build failed: update runner](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Build.20failed.3A.20update.20runner/with/614474241)

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Algebra/Polynomial/HasseDeriv.lean [hunk 1]
```diff
@@ -124,6 +124,13 @@ theorem hasseDeriv_X (hk : 1 < k) : hasseDeriv k (X : R[X]) = 0 := by
   rw [← monomial_one_one_eq_X, hasseDeriv_monomial, Nat.choose_eq_zero_of_lt hk, Nat.cast_zero,
     zero_mul, monomial_zero_right]
 
+@[simp]
+theorem hasseDeriv_map {S : Type*} [Semiring S] (f : R →+* S) (k : ℕ) (p : R[X]) :
+    hasseDeriv k (p.map f) = (hasseDeriv k p).map f := by
+  ext
+  simp [hasseDeriv_coeff]
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (mo271) [inline Mathlib/Algebra/Polynomial/HasseDeriv.lean]:
```suggestion
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Comment by adomani** [comment]
Thanks!

bors merge
